US06632810B2
Synthesis of 6,7,8-trimethoxynaphthalene-2-carbonitrile:
2,3,4-Trimethoxybenzaldehyde (9.8 g) and 3-cyano-propionaldehyde dimethylacetal (6.35 mL) were treated under the same conditions as in Preparation Example 1 to obtain the title compound.

reactant | 2,3,4-Trimethoxybenzaldehyde | 9.8 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | 3-cyano-propionaldehyde dimethylacetal | 6.35 mL | COC(CCC#N)OC | C6H11NO2
product | 6,7,8-trimethoxynaphthalene-2-carbonitrile | COC=1C=C2C=CC(=CC2=C(C1OC)OC)C#N | C14H13NO3
